US06624159B2
tert-Butyl 2-(2-(2,3-difluoro-5-iodobenzoyl)-3-ethoxy-3-oxoprop-1-enyl)-1-methylhydrazinecarboxylate [AM.1, Y=iodo]
A solution of ethyl 2-(2,3-difluoro-5-iodobenzoyl)-3-ethoxy-2-propenoate (Preparation 21, 7.80 g) in tert-butanol (40 mL) is cooled with a cold water bath and a solution of tert-butyl 1-methylhydrazinecarboxylate (2.92 g) in tert-butanol (4 mL) is added. The cooling bath is removed, the mixture is stirred for 5 min at ambient temperature, and then is heated in an oil bath at 45° C. for 40 min. The reaction mixture is poured into 100 mL of crushed ice/water and extracted two times with ethyl acetate. The combined organic layers are dried (Na2SO4) and concentrated in vacuo. The crude product is purified by chromatography, using 300 g of silica gel, packed and eluted with EtOAc/heptane (1/3), to afford 8.95 g (92%) of the title compound as a yellow oily foam. Physical characteristics: 1H NMR (CDCl3) δ8.14, 8.07, 7.59-7.49, 7.46-7.41, 4.07, 3.30, 3.26, 1.50, 1.09, 0.97; MS (ESI+) m/z 511 (M+H)+.

reactant | ethyl 2-(2,3-difluoro-5-iodobenzoyl)-3-ethoxy-2-propenoate | 7.80 g | FC1=C(C(=O)C(C(=O)OCC)=COCC)C=C(C=C1F)I | C14H13F2IO4
reactant | tert-butyl 1-methylhydrazinecarboxylate | 2.92 g | CN(N)C(=O)OC(C)(C)C | C6H14N2O2
solvent | tert-butanol | 40 mL | C(C)(C)(C)O | C4H10O
solvent | tert-butanol | 4 mL | C(C)(C)(C)O | C4H10O
product | tert-Butyl 2-(2-(2,3-difluoro-5-iodobenzoyl)-3-ethoxy-3-oxoprop-1-enyl)-1-methylhydrazinecarboxylate | 8.95 g, 92% | FC1=C(C(=O)C(=CNN(C(=O)OC(C)(C)C)C)C(=O)OCC)C=C(C=C1F)I | C18H21F2IN2O5
